US06521666B1
N-(4-Bromo-2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester (0.410 g) was coupled with 1-tert-butoxycarbonyl-2-pyrroleboronic acid (0.930 g) in THF (10 mL) as described in Example 7-2) to give 0.435 g of N-[4-(1-tert-butoxycarbonyl-2-pyrrolyl)-2,6-dichlorobenzoyl]-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester. ESMS: m/z 653 (MH+).

reactant | N-(4-Bromo-2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester | 0.410 g | COC([C@@H](NC(C1=C(C=C(C=C1Cl)Br)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1OC)OC)=O | C25H22BrCl2NO5
reactant | 1-tert-butoxycarbonyl-2-pyrroleboronic acid | 0.930 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-[4-(1-tert-butoxycarbonyl-2-pyrrolyl)-2,6-dichlorobenzoyl]-4-(2,6-dimethoxyphenyl)-L-phenylalanine methyl ester | 0.435 g | COC([C@@H](NC(C1=C(C=C(C=C1Cl)C=1N(C=CC1)C(=O)OC(C)(C)C)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1OC)OC)=O | C34H34Cl2N2O7
